US05736548
A mixture of 3-(1-methyl-3-hexahydroazepinyloxy) benzaldehyde (0.79 g, 3.4 mol), 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (0.5 g, 2.2 mmol), methanesulfonic acid (0.25 ml) and xylenes (25 ml) was refluxed overnight. The solvent was stripped, the residue was dissolved in CH2Cl2 and purified by column chromatography on silica gel eluting with ether, then acetone, then 0.5% Et3N/acetone to afford 0.43 g (45%) of 1-cyclopentyl-3-ethyl-6-[3-(1-methyl-3-hexahydroazepinyloxy)phenyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 195°-196° C.

reactant | 3-(1-methyl-3-hexahydroazepinyloxy) benzaldehyde | 3.4 mol, 0.79 g | CN1CC(CCCC1)OC=1C=C(C=O)C=CC1 | C14H19NO2
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 2.2 mmol, 0.5 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | methanesulfonic acid | 0.25 ml | CS(=O)(=O)O | CH4O3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-cyclopentyl-3-ethyl-6-[3-(1-methyl-3-hexahydroazepinyloxy)phenyl]pyrazolo[3,4-d]pyrimidin-4-one | 0.43 g, 45% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=CC=C2)OC2CN(CCCC2)C)CC | C25H33N5O2
